US06924278B2
To a solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(4-pyrazolylmethyl)piperazine (500 mg) and tert-butyl bromoacetate (225 mg) in N,N-dimethylformamide (7.5 ml) was added potassium carbonate (390 mg), and the mixture was stirred at 60° C. for 7 hours. Water was added to the mixture and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, evaporated under reduced pressure, and purified by column chromatography on a silica gel using a mixture of ethyl acetate and hexane (1:1) as eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[[1-(tert-butoxycarbonylmethyl)-1H-pyrazol-4-yl]methyl]-2-(3,4-dimethylbenzyl)piperazine as an oil.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(4-pyrazolylmethyl)piperazine | 500 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NNC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C26H26F6N4O
reactant | tert-butyl bromoacetate | 225 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 390 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[[1-(tert-butoxycarbonylmethyl)-1H-pyrazol-4-yl]methyl]-2-(3,4-dimethylbenzyl)piperazine | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NN(C2)CC(=O)OC(C)(C)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C32H36F6N4O3
